US07498346B2
(R)-(3-{4-[(6-Cyano-pyridin-2-ylmethyl)-(4-methoxy-phenyl)-amino]-piperidin-1-yl}-butyl)-carbamic acid tert-butyl ester (0.070 g, 0.14 mmol) was dissolved in a 3:1 mixture of CH2Cl2 and TFA and the mixture was stirred at room temperature for 1 h. The solvent was removed in vacuo and the resulting brown oil dried in vacuo (high vacuum system) for 2 h. The resulting amine, EDCI (0.030 g, 0.0.16 mmol) and HOBT (0.021 g, 0.16 mmol) were combined in DMF (5 mL) to give a pale yellow solution. To this solution was added 2-chloro-4-methyl-nicotinic acid (0.027 g, 0.16 mmol) followed by DIPEA (163 μL, 0.94 mmol) and the resulting mixture was stirred at 25° C. for 16 h. Standard workup according to General Procedure C gave the crude product as a tan oil. Purification by column chromatography on silica gel (Et2O:MeOH:NH4OH, 90:8:2, v/v/v) afforded 2-chloro-N-((R)-3-{4-[(6-cyano-pyridin-2-ylmethyl)-(4-methoxy-phenyl)-amino]-piperidin-1-yl}-butyl)-4-methyl-nicotinamide (0.027 g, 35%) as a white foam. 1H NMR (CDCl3) δ 0.94 (m, 1H), 1.00 (d, 3H, J=6.0 Hz), 1.20 (m, 1H), 1.53 (m, 1H), 1.77 (m, 3H), 2.14 (br t, 1H), 2.41 (s, 3H), 2.54 (br t, 1H), 2.80-2.96 (m, 3H), 3.33-3.47 (m, 2H), 3.71 (s, 3H), 3.88 (s+m, 3H), 6.61 (d, 2H, J=9.0 Hz), 6.72 (d, 2H, J=9.0 Hz), 7.16 (d, 1H, J=4.5 Hz), 7.43 (d, 1H, J=9.0 Hz), 7.54 (d, 1H, J=9.0 Hz), 7.67 (t, 1H, J=9.0 Hz), 8.14 (d, 1H, J=4.5 Hz), 8.77 (br s, 1H). ES-MS m/z 547 (M+H), 569 (M+Na). Anal. Calcd. for C30H35N6O2Cl.0.2 CH2Cl2: C, 64.30; H, 6.33; N, 14.90. Found: C, 64.10; H, 6.39; N, 14.74.

reactant | (R)-(3-{4-[(6-Cyano-pyridin-2-ylmethyl)-(4-methoxy-phenyl)-amino]-piperidin-1-yl}-butyl)-carbamic acid tert-butyl ester | 0.14 mmol, 0.070 g | C(C)(C)(C)OC(NCC[C@@H](C)N1CCC(CC1)N(C1=CC=C(C=C1)OC)CC1=NC(=CC=C1)C#N)=O | C28H39N5O3
reactant | EDCI | 0.030 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.16 mmol, 0.021 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-chloro-4-methyl-nicotinic acid | 0.16 mmol, 0.027 g | ClC1=C(C(=O)O)C(=CC=N1)C | C7H6ClNO2
reactant | DIPEA | 0.94 mmol, 163 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-chloro-N-((R)-3-{4-[(6-cyano-pyridin-2-ylmethyl)-(4-methoxy-phenyl)-amino]-piperidin-1-yl}-butyl)-4-methyl-nicotinamide | 0.027 g, 35% | ClC1=C(C(=O)NCC[C@@H](C)N2CCC(CC2)N(C2=CC=C(C=C2)OC)CC2=NC(=CC=C2)C#N)C(=CC=N1)C | C30H35ClN6O2
